* D:\project\VLSI\AND_GATE\And_gate.asc
M1 N003 Input_B 0 0 NMOS
M2 N002 Input_A N003 N003 NMOS
M3 N001 Input_A N002 N002 PMOS
M4 N001 Input_B N002 N002 PMOS
M5 N004 N002 0 0 NMOS
M6 Output N002 N004 N004 NMOS
M7 N001 N002 Output Output PMOS
M8 N001 N002 Output Output PMOS
V-a Input_A 0 PULSE(0 5 0 5n 5n 20m 40m)
V-b Input_B 0 PULSE(0 5 0 5n 5n 40m 80m)
Vdd N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jjaya\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 160m
* AND GATE
.backanno
.end
