* D:\project\VLSI\Components\Nor_gate.asc
M1 Output Input_B 0 0 NMOS
M2 Output Input_A 0 0 NMOS
M3 N002 Input_A Output Output PMOS
M4 N001 Input_B N002 N002 PMOS
V1 Input_B NC_01 PULSE(0 5 0 5n 5n 20m 40m)
V2 Input_A NC_02 PULSE(0 5 0 5n 5n 40m 80m)
V3 N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jjaya\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 200m
.backanno
.end
